US05595995
a) 2-(3-Pyridyl)propan-2-ol
The method followed that of Example 4a, but using methyllithium (1.4 M; 14 ml, 20 mmol) in diethyl ether and 3-acetylpyridine (2.2 ml, 20 mmol) in dry THF (40 ml). Work-up and chromatography, on elution with ether-petrol-triethylamine 30:10:1, afforded the title compound (1.26 g, 46%) as an oil. 1H-NMR (CDCl3) δ1.58 (6H, s, CMe2), 7.22 (1H, m, Py 5-H), 7.85 (1H, m, Py 4-H), 8.32 (1H, m, Py 6-H), 8.65 (1H, m, Py 2-H); MS m/z 137 (M+).

reactant | methyllithium | 20 mmol, 1.4 M, 14 ml | C[Li]
reactant | 3-acetylpyridine | 20 mmol, 2.2 ml | C(C)(=O)C=1C=NC=CC1 | C7H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 2-(3-Pyridyl)propan-2-ol | 1.26 g, 46% | N1=CC(=CC=C1)C(C)(C)O | C8H11NO
